US08022205B2
3-(2-Morpholin-4-yl-7-o-tolyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenol (A-22)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 2-methylaniline, 4-(3-methoxy-phenyl)-2-morpholin-4-yl-7-o-tolyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine was obtained, and subsequently, further in the same manner as Example 1-A-09, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 2-methylaniline | CC1=C(N)C=CC=C1 | C7H9N
reactant | 4-(3-methoxy-phenyl)-2-morpholin-4-yl-7-o-tolyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | COC=1C=C(C=CC1)C=1C2=C(N=C(N1)N1CCOCC1)N(CC2)C2=C(C=CC=C2)C | C24H26N4O2
product | 3-(2-Morpholin-4-yl-7-o-tolyl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-phenol | N1(CCOCC1)C=1N=C(C2=C(N1)N(CC2)C2=C(C=CC=C2)C)C=2C=C(C=CC2)O | C23H24N4O2
